US07553854B2
Step 1. Synthesis of tert-butyl 4-(2-(methylthio)benzo[d]thiazol-6-yloxy)picolinate
To a solution of 2-(methylthio)benzo[d]thiazol-6-ol (5.0 g, 25.38 mmol, 1.0 eq) in 25 mL of N,N-dimethylformamide was added tert-butyl 4-chloropicolinate (8.13 g, 38.07 mmol, 1.5 eq) and cesium carbonate (20.67 g, 63.45 mmol, 2.5 eq). The reaction mixture was stirred at 75° C. for 6 hours. After the mixture was cooled to room temperature, the mixture was added 120 mL of water and aqueous phase extracted with ethyl acetate (3×150 mL), combined organic layers were dried over sodium sulfate. After filtration, the solid was purified by silica gel column eluted with ethyl acetate-hexane 0%-50% mixture to give 5.84 g of the titled compound as brown powder (62%). MH+=375.

reactant | 2-(methylthio)benzo[d]thiazol-6-ol | 25.38 mmol, 5.0 g, 1.0 eq | CSC=1SC2=C(N1)C=CC(=C2)O | C8H7NOS2
reactant | tert-butyl 4-chloropicolinate | 38.07 mmol, 8.13 g, 1.5 eq | ClC1=CC(=NC=C1)C(=O)OC(C)(C)C | C10H12ClNO2
reactant | cesium carbonate | 63.45 mmol, 20.67 g, 2.5 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 120 mL | O | H2O
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | tert-butyl 4-(2-(methylthio)benzo[d]thiazol-6-yloxy)picolinate | 5.84 g, 62% | CSC=1SC2=C(N1)C=CC(=C2)OC2=CC(=NC=C2)C(=O)OC(C)(C)C | C18H18N2O3S2
